US07361678B2
To a stirred solution of 4-fluoronitrobenzene (20 mmol), 4-fluoro-3-trifluoromethylphenol (22 mmol) in DMF (50 mL) at rt, solid potassium carbonate (60 mmol) was added and the reaction mixture was heated to 90° C. for 5 h (monitored by TLC), according to General Procedure L1. After cooling to rt, the reaction mixture was poured into cold H2O (60 mL). The resulting mixture was extracted with EtOAc (3×100 mL). The combined EtOAc extracts were washed with H2O (2×40 mL) and brine (50 mL), and dried over anhydrous sodium sulfate. The solvent was removed in vacuuo to afford the desired 1-fluoro-4-(4-nitrophenoxy)-2-(trifluoromethyl)benzene. The crude product was used directly for further transformation without further purification.

reactant | 4-fluoronitrobenzene | 20 mmol | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-fluoro-3-trifluoromethylphenol | 22 mmol | FC1=C(C=C(C=C1)O)C(F)(F)F | C7H4F4O
reactant | potassium carbonate | 60 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | 60 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-fluoro-4-(4-nitrophenoxy)-2-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F | C13H7F4NO3
